US04866091
A solution of 4'-[1-(tert-butyloxycarbonylmethoxyimino)ethyl]-2'-(2,4-difluorophenoxy)methanesulfonanilide (2.6 g), anisole (2 ml), and trifluoroacetic acid (6 ml) in dichloromethane (50 ml) was stirred for 5 hours at room temperature. The mixture was concentrated, and the residue was dissolved in an aqueous solution of sodium bicarbonate and washed with ethyl acetate. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated under reduced pressure. The residue was recrystallized from a mixture of hexane and ethyl acetate to give pale yellow powder of 4'-[1-(carboxymethoxyimino)ethyl]-2'-(2,4-difluorophenoxy)methanesulfonanilide (1.5 g).

reactant | 4'-[1-(tert-butyloxycarbonylmethoxyimino)ethyl]-2'-(2,4-difluorophenoxy)methanesulfonanilide | 2.6 g | C(C)(C)(C)OC(=O)CON=C(C)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=C(C=C1)F)F | C21H24F2N2O6S
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4'-[1-(carboxymethoxyimino)ethyl]-2'-(2,4-difluorophenoxy)methanesulfonanilide | 1.5 g | C(=O)(O)CON=C(C)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=C(C=C1)F)F | C17H16F2N2O6S
